.subckt sg13g2_nand3_2 Y A B C VDD VSS
XP0 Y A VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 ad=4.256e-13 as=7.616e-13 pd=3e-06 ps=5.84e-06
XP1 Y B VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 ad=4.256e-13 as=7.616e-13 pd=3e-06 ps=5.84e-06
XP2 Y C VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 ad=4.256e-13 as=7.616e-13 pd=3e-06 ps=5.84e-06
XN1 net2 B net3 VSS sg13_lv_nmos w=1.48u l=130.00n ng=2 ad=2.812e-13 as=5.032e-13 pd=2.24e-06 ps=4.32e-06
XN2 net3 C VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2 ad=2.812e-13 as=5.032e-13 pd=2.24e-06 ps=4.32e-06
XN0 Y A net2 VSS sg13_lv_nmos w=1.48u l=130.00n ng=2 ad=2.812e-13 as=5.032e-13 pd=2.24e-06 ps=4.32e-06
.ends
